Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
Shortness of breath, cough, fever
 
Major Surgical or Invasive Procedure:
Low transverse cesarean section
Intubation
 
History of Present Illness:
___ yo G5P___ @ ___ w/PMHx of Type I DM and asthma, who 
initially presented to OB triage with fevers to 102, cough, and 
myalgias x 3 days at home. She denied any sinus congestion or 
rhinorrhea associated with this. She did receive her flu shot 
this year.  She notes SOB as well as difficulty lying flat, as 
well as worsening of her chronic ___ edema and periorbital edema. 
Patient endorses sick contacts at home, with children age ___ and 
___ with URI/gastroenteritis symptoms.  She had a mild headache, 
but denied visual changes or RUQ pain.  No ctx, no lof, no vb, 
+afm.
 
Past Medical History:
PAST OBSTETRIC HISTORY
 - NSVD 38 wk c/b Pre-e
 - NSVD 35.5 wk c/b Pre-e
 - SAB

PAST MEDICAL HISTORY
 - TIDM on insulin pump
 - Asthma - no steroids/intubations

PAST SURGICAL HISTORY: None
 
Social History:
Lives with partner and children.  Denies tobacco or alcohol use.

 
Physical Exam:
(On admission to ICU)
VS: Temp 99.4 BP  
Gen: tearful appearing, tachypneic. Increased WOB.  
HEENT: MMM, periorbital edema, PERRL, anicteric sclera  
RESP: Expiratory wheezing. +Rhonchi in the right lower lung 
field. +Crackles at the left base.  
CV: Tachycardic. ___ systolic ejection murmur at RUSB.  
ABD: Soft, nontender, nondistended. Normoactive BS. No 
hepatomegaly.  
EXT: 3+ pitting edema to knees as well as edema noted in hands.  

NEURO: Alert and oriented x 3. Reflexes symmetric bilaterally. 
 
Pertinent Results:
WBC 9.1 - 21.0

Creatinine 0.8 -> 3.8 -> 1.3

Blood gases:
___ 12:20AM BLOOD ___ Temp-37.1 FiO2-70 pO2-81* 
pCO2-31* pH-7.36 calTCO2-18* Base XS--6 Intubat-NOT INTUBA
___ 06:07PM BLOOD ___ pO2-114* pCO2-34* pH-7.33* 
calTCO2-19* Base XS--6
___ 10:12PM BLOOD Type-ART Temp-38.2 ___ Tidal V-420 
PEEP-8 FiO2-100 pO2-250* pCO2-42 pH-7.24* calTCO2-19* Base XS--8 
AADO2-438 REQ O2-74 -ASSIST/CON Intubat-INTUBATED
___ 11:47PM BLOOD Type-ART Temp-37.7 pO2-116* pCO2-51* 
pH-7.23* calTCO2-22 Base XS--6
___ 01:29AM BLOOD Type-ART Temp-37.7 pO2-105 pCO2-49* 
pH-7.23* calTCO2-22 Base XS--7
___ 02:52AM BLOOD Type-ART Temp-37.8 pO2-199* pCO2-36 
pH-7.34* calTCO2-20* Base XS--5
___ 04:43AM BLOOD Type-ART Temp-38.8 pO2-127* pCO2-38 
pH-7.26* calTCO2-18* Base XS--9
___ 07:22AM BLOOD Type-ART Temp-37.2 Rates-30/ Tidal V-500 
PEEP-8 FiO2-50 pO2-85 pCO2-40 pH-7.25* calTCO2-18* Base XS--9 
Intubat-INTUBATED
___ 08:48AM BLOOD Type-ART Temp-37.2 Rates-30/ Tidal V-500 
PEEP-10 FiO2-60 pO2-137* pCO2-40 pH-7.25* calTCO2-18* Base XS--9 
Intubat-INTUBATED
___ 12:03PM BLOOD Type-ART pH-7.03* Comment-CORD ___
___ 01:16PM BLOOD Type-ART Temp-37.1 Rates-30/ Tidal V-450 
PEEP-12 FiO2-40 pO2-135* pCO2-35 pH-7.29* calTCO2-18* Base XS--8 
-ASSIST/CON Intubat-INTUBATED
___ 06:10PM BLOOD Type-ART Rates-30/ Tidal V-500 FiO2-40 
pO2-161* pCO2-32* pH-7.39 calTCO2-20* Base XS--4 -ASSIST/CON 
Intubat-INTUBATED
___ 05:04AM BLOOD Type-ART Temp-36.3 Rates-30/ Tidal V-500 
PEEP-10 FiO2-40 pO2-143* pCO2-28* pH-7.44 calTCO2-20* Base XS--3 
-ASSIST/CON Intubat-INTUBATED
___ 11:41AM BLOOD Type-ART Temp-36.2 Rates-/14 Tidal V-620 
PEEP-8 FiO2-40 pO2-140* pCO2-42 pH-7.31* calTCO2-22 Base XS--4 
Intubat-INTUBATED Vent-SPONTANEOU
___ 02:38PM BLOOD Type-ART Temp-36.1 PEEP-5 pO2-136* 
pCO2-42 pH-7.31* calTCO2-22 Base XS--4 Intubat-INTUBATED 
Vent-SPONTANEOU
___ 05:07PM BLOOD Type-ART Rates-/8  PEEP-5 FiO2-40 
pO2-137* pCO2-50* pH-7.26* calTCO2-23 Base XS--4 
Intubat-INTUBATED Vent-SPONTANEOU
___ 08:14PM BLOOD Type-ART Temp-38.2 ___ Tidal V-400 
PEEP-5 FiO2-40 pO2-148* pCO2-51* pH-7.24* calTCO2-23 Base XS--5 
-ASSIST/CON Intubat-INTUBATED
___ 10:22PM BLOOD Type-ART ___ Tidal V-400 PEEP-5 
FiO2-40 pO2-146* pCO2-36 pH-7.36 calTCO2-21 Base XS--4 
-ASSIST/CON Intubat-INTUBATED
___ 12:07PM BLOOD Type-ART Temp-36.7 PEEP-5 pO2-134* 
pCO2-38 pH-7.36 calTCO2-22 Base XS--3 Intubat-INTUBATED

EKG:
Normal sinus rhythm, rate 82. Delayed precordial R wave 
progression, probably normal variant. Borderline low voltage. No 
previous tracing available for comparison.  

Lower ext doppler ___:  No evidence of DVT.

CXR ___:
ET tube tip is in standard position 3 cm above the carina. NG 
tube tip is in the stomach partially coiled in the stomach. 
Cardiomediastinal contour is obscured by the parenchymal 
abnormalities. Diffuse airspace consolidations have worsened in 
the left lower lobe and lingula. There is no pneumothorax or 
sizable pleural effusions.

TTE ___:
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thicknesses and cavity size are normal. 
Regional left ventricular wall motion is normal. Overall left 
ventricular systolic function is low normal (LVEF 50-55%). Right 
ventricular chamber size is normal. with borderline normal free 
wall function. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic regurgitation. 
The mitral valve appears structurally normal with trivial mitral 
regurgitation. The pulmonary artery systolic pressure could not 
be determined. There is an anterior space which most likely 
represents a fat pad.

CXR ___:
Interstitial edema which worsened over the preceding two days 
has nearly resolved, though pulmonary vascular congestion 
remains and the heart is still mildly to moderately enlarged. 
Small right pleural effusion may be present. No pneumothorax.

 
Brief Hospital Course:
Ms. ___ was admitted to the ___ service for bacterial 
pneumonia.  She was initially febrile, her WBC was 11.9 with 12% 
bands, and her initial CXR showed acute interstitial or 
peribronchial thickening that could represent atypical 
pneumonia.  She was initially started on PO Azithromycin.  
.
FWB was reassuring with BPP ___, AFI 17, EFW 2543g (55%).  Her 
T1DM was initially very well controlled on her insulin pump.
.
On admission, she was noted to have a high blood pressure of 
150/90.  She denied headache, visual changes, or RUQ pain.  She 
did, however, have 3+ pitting edema to her knees bilaterally 
(bilat ___ US neg for DVT).  Serum pre-eclampsia labs were 
normal.  A 24 hour urine collection revealed 4,456mg protein.  
She had known baseline proteinuria with 1796mg at 26 weeks and 
___ mg at 33 weeks GA.
.
On the night of HD #1, she was ___ transferred to the 
ICU for relative hypotension with SBPs in the 120s and concerns 
for early sepsis.  IV Ceftriaxone was added to broaden her 
antibiotic regimen.  She improved with IV fluids and tylenol and 
was called out of the unit on the next morning.
.  
On the night of HD #3, she was noted to have an episode of 
respiratory distress with tachypnea in the ___, with O2sat 
89-90% and ABG ___ on 70% FM. CXR at the time showed 
significant interval progression of the right lower lobe 
consolidation as well as worsening of peribronchial opacities in 
the rest of the lungs consistent with progressing infection.  
She was started on high dose IV prednisolone q24h.
.
On HD #4, she became more dyspneic with walking and had another 
episode of respiratory distress with O2 sat 90% on 70% Face 
Mask.  WBC increased to 18.  EKG showed sinus tachycardia with 
RBBB. She was transferred to the FICU and intubated. Vancomycin 
was added to her antibiotic regimen.  She was started on an 
insulin gtt.
.
On HD #5 (___), she had a primary LTCS at 34w5d for worsening 
maternal status.
FICU course:
Ms. ___ was admitted to the FICU 34 weeks pregnant with 
hypoxia felt to be secondary to multilobar pneumonia.  
  
# Respiratory Failure/Sepsis. 
Multifactorial in setting of underlying asthma, multilobar 
pneumonia, and volume overload (was aggressively fluid 
resuscitated and had leaky capillaries from her preeclampsia).  
She was intubated, given steroids for her asthma, and treated 
for CAP with ceftriaxone and azithromycin.  Although initially 
given vancomycin, this was stopped when it was decided that MRSA 
was unlikely in this patient from the community.  Viral studies 
were negative, and sputum cultures did not yield a pathogen.  
Her respiratory status improved with time, and she was extubated 
___. 

# Preeclampsia:
Patient had LTCS done by OB on ___.  Her blood pressures and 
renal function slowly improved after delivery. 
  
# Acute renal failure:
Patient's urine output decreased during the course of her ICU 
stay, and her Cr climbed to a peak of 3.8.  Renal was consulted, 
and she was felt to have a mixed picture due to preeclampsia and 
probable ATN in the setting of sepsis/hypotension.  She was thus 
managed with supportive care and close monitoring.  Her urine 
output began to improve her Cr was decreasing rapidly at the 
time of transfer out of the ICU.
  
#. Anemia. 
Patient with low hematocrit. stable. Patient's peripheral smear 
initially showed evidence of occasional schistocytes. DIC labs 
followed and proved unremarkable.  The patient was transfused 
PRBCs during her ICU stay with appropriate Hct response.   
   
#. DM1. 
Patient has history of difficult to control diabetes.  She was 
put on an insulin gtt and had labile blood sugars.  Once she was 
extubated, ___ was consulted for assistance in managing her 
transition to subcutaneous insulin in the setting of recent 
pneumonia, s/p C section, and treatment with steroids.

# Bradycardia
After extubation, the patient was noted to have a sinus 
bradycardia with rates in the ___ and ___.  She was asymptomatic 
and this was thought to be a normal variant.  Of note, she did 
have one episode of bradycardia to ___ after using the 
commode; this was felt to be a vagal episode.
The patient was transfered out of the FICU to the postpartum 
floor on postoperative day #5 (___).  Her clinical status 
and chest x-ray were both much improved with oxygen saturations 
in the high ___ on room air and an improving lung exam.  The 
patient completed her 10 day courses of Azithromycin and 
Ceftriaxone.  She was prescribed an oral steroid taper since 
high dose methylprednisolone had been given in the setting of 
repiratory failure and asthma.
.
The patient had a superficial separation of the right aspect of 
her c-section incision which was packed with wet to dry 
dressings 2x/day and then left open with just a dry dressing.
.
On postoperative day #8, the patient was transitioned from 
sliding scale insulin to her insulin pump, with adequate blood 
glucose control.  ___ followed her during her admission.
.
Blood pressures were intermittenly elevated to the 160s-170 
systolic with diastolics in the ___.  The patient was 
asymptomatic with no headache, visual changes or right upper 
quadrant pain.  No antihypertensives were started as the blood 
pressures settled in an acceptable range with no intervention 
(only an occasional systolic in the 160s).
.
The patient was discharged home on postoperative day #10.  She 
had no pain, she was afebrile and vital signs were stable.  She 
was ambulatory and tolerating a regular diet.  She will follow 
up with Dr. ___ and ___ endocrinologist as an 
outpatient.
 
Medications on Admission:
Insulin pump
 
Discharge Medications:
Insulin pump
(completed prednisone taper on day of discharge)
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary c-section ;Type I diabetic; atypical pneumonia, acute 
renal failure, ? preeclampsia

 
Discharge Condition:
good

 
Discharge Instructions:
Routine post-op instructions; will f/u w/Dr. ___ on 
___ in ___. She will  call for f/u with Dr. ___ 
___ in endocrine. Complete prednisone taper today - ___
Reviewed warning signs, when to call, what number to call
 
Followup Instructions:
___